US08309721B2
0.43 g of 4-bromo-2-fluorobenzonitrile, 2.2 g of caesium carbonate, 0.12 g of 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene and 0.04 g of palladium acetate are added successively to a solution of 0.40 g of 9H-carbazole-4-carboxylic acid methyl ester, obtained according to stage 2 of Example 1, in 30 ml of dioxane under an inert argon atmosphere. The reaction mixture is refluxed for 3 hours, and then cooled, filtered and concentrated under reduced pressure. The residue is purified by silica gel chromatography, elution being carried out with a mixture of heptane and ethyl acetate (96/4 by volume), so to give 496 mg of 9-(4-cyano-3-fluorophenyl)-9H-carbazole-4-carboxylic acid methyl ester, the characteristics of which are the following:

reactant | 4-bromo-2-fluorobenzonitrile | 0.43 g | BrC1=CC(=C(C#N)C=C1)F | C7H3BrFN
reactant | caesium carbonate | 2.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.12 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 9H-carbazole-4-carboxylic acid methyl ester | 0.40 g | COC(=O)C1=CC=CC=2NC3=CC=CC=C3C12 | C14H11NO2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.04 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9-(4-cyano-3-fluorophenyl)-9H-carbazole-4-carboxylic acid methyl ester | 496 mg | COC(=O)C1=CC=CC=2N(C3=CC=CC=C3C12)C1=CC(=C(C=C1)C#N)F | C21H13FN2O2
